US07053089B2
2-{[1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amino}-pyrimidine-4-carboxylic acid amide
EXAMPLE 83 was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 2-chloro-pyrimidine-4-carboxylic acid amide (2-chloro-pyrimidine-4-carboxylic acid amide was prepared according to G. D. Davies, D. E. O'Brien, L. R. Lewis, C. C. Cheng, J. Heterocyclic Chem., 1:130–131(1964): MS (m+1)=404.

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | 2-chloro-pyrimidine-4-carboxylic acid amide | ClC1=NC=CC(=N1)C(=O)N | C5H4ClN3O
product | 2-{[1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amino}-pyrimidine-4-carboxylic acid amide | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CNC1=NC=CC(=N1)C(=O)N | C19H25N5O3S
